US07279600B2
4′-Hydroxy-3-methyl[1,1′-biphenyl]-4-carbaldehyde oxime
A mixture of 4′-hydroxy-3-methyl[1,1′-biphenyl]-4-carbaldehyde (310 mg, 1.46 mmol), hydroxylamine hydrochloride (203 mg, 2.92 mmol) and pyridine (236 ul, 2.92 mmol) in 15 mL absolute methanol was refluxed for 2.5 h. The solvent was removed under reduced pressure and the mixture was dissolved in ethyl acetate and water, extracted with ethyl acetate (×3), washed with brine, dried over sodium sulfate, and filtered. Evaporation of the solvent and purification by recrystallization (ethyl acetate, acetone and hexane) gave 177 mg (53%) of the title compound as a yellowish solid: mp 195-197° C.;

reactant | 4′-hydroxy-3-methyl[1,1′-biphenyl]-4-carbaldehyde | 1.46 mmol, 310 mg | OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=O)C | C14H12O2
reactant | hydroxylamine hydrochloride | 2.92 mmol, 203 mg | Cl.NO
reactant | pyridine | 2.92 mmol, 236 ul | N1=CC=CC=C1 | C5H5N
solvent | methanol | 15 mL | CO | CH4O
product | 4′-Hydroxy-3-methyl[1,1′-biphenyl]-4-carbaldehyde oxime | 177 mg, 53% | OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=NO)C | C14H13NO2
